US07196090B2
e) Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylamino-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate
To a 100-mL round-bottomed flask was added Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfinyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate (820 mg, 1.52 mmol), dioxane(60 mL), then a 2 M solution of methylamine in tetrahydrofuran (7.6 mL, 15.2 mmol), and the solution was heated to 60° C. under an atmosphere of nitrogen for 5 hours. The solution was then concentrated in vacuo, and reacted further without purification: LRMS: 506.2 (M+H).

reactant | Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfinyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate | 1.52 mmol, 820 mg | C(C)OC(=O)C1CCC(CC1)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2F)OC)OC)F)=O | C24H28F2N4O6S
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 15.2 mmol, 7.6 mL | O1CCCC1 | C4H8O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylamino-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate | C(C)OC(=O)C1CCC(CC1)N1C(N(CC=2C1=NC(=NC2)NC)C2=C(C(=CC(=C2F)OC)OC)F)=O | C24H29F2N5O5
